US06410550B1
6-ISOPROPYL-5-OXA-7,13-DIAZATETRACYCLO[9.3.1.02,10.04,8]PENTADECA-2(10),3,6,8-TETRAENE HYDROCHLORIDE
2,2,2-Trifluoro-1-(4-hydroxy-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone and isobutyryl chloride were converted to the title compound following the procedures described in EXAMPLE 47. (TLC 25% EtOAc/hexanes Rf 0.14). 1H NMR (400 MHz, CD3OD) δ7.65 (2H), 3.49 (br s, 2H), 3.41 (d, J=12.0 Hz, 2H), 3.33-3.19 (3H), 2.45 (m, 1H), 2.18 (d, J=11.5 Hz, 1H), 1.45 (d, J=7.0 Hz, 6H). APCl MS m/e 243.2 [(M+1)+]. (HCl salt) mp 249-251° C.

reactant | 2,2,2-Trifluoro-1-(4-hydroxy-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone | FC(C(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)O)N)(F)F | C13H13F3N2O2
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 6-ISOPROPYL-5-OXA-7,13-DIAZATETRACYCLO[9.3.1.02,10.04,8]PENTADECA-2(10),3,6,8-TETRAENE HYDROCHLORIDE | Cl.C(C)(C)C=1OC2=CC=3C4CNCC(C3C=C2N1)C4 | InChI=1S/C15H18N2O.ClH/c1-8(2)15-17-13-4-11-9-3-10(7-16-6-9)12(11)5-14(13)18-15;/h4-5,8-10,16H,3,6-7H2,1-2H3;1H
